Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan / Shellfish Derived
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo man w DM1 c/b neuropathy, gastroparesis, s/p pancreas 
transplant in ___ on sirolimus and tacrolimus, now presents 
with nausea, vomiting, and abdominal pain. The pt was admitted 
at ___ from ___ with the same symptoms. On that admission, 
he was evaluated for more unusual causes of abdominal pain 
including: heavy metal poisoning, intermittent prophyria, 
pancreatitis, biliary etiology. Tests for familial Mediterraean 
Fever are pending. There was some concern that some of his pain 
may be exhibiting some narcotic seeking behavior.  
.
He most recent admission was from ___ to ___ for 
nausea, vomiting and abdominal pain. Since that time he was 
doing well at home until the morning of presentation when he 
developed nausea, vomiting and abodminal pain. The pain is 
mid-epigastric and does not radiate. It is a stabbing pain. The 
pain is similar to that which he experiences with all his 
flares. The nausea and vomiting also began this morning. He is 
vomiting mainly water and food. He is not vomiting bile or 
blood. He has been able to continue to take PO fluids but has 
not taken any of his medications including his tacroliums and 
siroliums. He has vomited over ten times today. He denies 
hematemasis, diarrhea, constipation, melena, hematochezia. He 
has normal urine output without dysuria or hematuria. He denies 
fevers and chills.  
.  
He initially presented to ___. On 
presentation there his initial vitals were T: 100.3, BP: 158/84, 
RR: 26, O2: 98% on RA. He received normal saline 500 ml, 
Dilaudid 2 mg IV x 3, Zofran 4 mg IV x 1. He had a chest xray 
which showed no acute cardiopulmonary process. CBC showed WBC 
11.7, 90% PMNs, normal chemistries, normal LFTs and normal 
lipase. He was transferred to this hospital for further 
management.  
.  
On arrival to ___ his initial vital signs were T: 100.2 BP: 
121/83, HR: 98, RR: 18 O2: 100% on RA. He was given a total of 
dilaudid 3mg IV, Zofran 4 mg IV, reglan 10 mg IV and Toradol 30 
mg IV x 1. Imaging was deferred as his pain was typical for his 
flares. He was admitted to ___ 10.  
.  
On arrival to the floor he continues to experience nausea, 
vomiting and abdominal pain. He requests narcotis. He reports 
that these symptoms are identical to previous flares. He denies 
new symptoms.
 
Past Medical History:
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery 

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: T: 98.3 BP: 156/110 P: 68 R: 20 O2: 100% on RA  
General: Alert, oriented, moans in pain, will not answer 
questions  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended, bowel sounds present, diffusely 
tender, voluntary guarding, no rebound tenderness, no 
organomegaly, no tenderness over pancreatic graft, well healed 
surgical scars  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
LABS:
___ 09:25PM BLOOD WBC-9.2# RBC-4.38* Hgb-12.6* Hct-36.8* 
MCV-84 MCH-28.8 MCHC-34.3 RDW-14.6 Plt ___
___ 09:25PM BLOOD Neuts-97* Bands-0 Lymphs-2* Monos-1* 
Eos-0 Baso-0 ___ Myelos-0
___ 09:25PM BLOOD Hypochr-OCCASIONAL Anisocy-NORMAL 
Poiklo-2+ Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Burr-OCCASIONAL Ellipto-1+
___ 09:25PM BLOOD ___ PTT-20.7* ___
___ 05:20AM BLOOD Glucose-122* UreaN-17 Creat-0.9 Na-140 
K-3.4 Cl-104 HCO3-20* AnGap-19
___ 05:20AM BLOOD Calcium-9.3 Phos-3.3# Mg-1.5*
___ 05:20AM BLOOD Amylase-58
___ 05:20AM BLOOD Lipase-19
___ 07:48PM BLOOD Lactate-1.5
___ 06:20AM BLOOD ALT-11 AST-15 AlkPhos-82 TotBili-0.6

IMMUNOSUPPRESSION LEVELS:
___ 05:20AM BLOOD tacroFK-3.0* rapmycn-3.6*
___ 05:00AM BLOOD tacroFK-2.8* rapmycn-2.1*
___ 05:10AM BLOOD tacroFK-3.7* rapmycn-3.3*
___ 04:55AM BLOOD tacroFK-5.9 rapmycn-6.8
___ 05:45AM BLOOD tacroFK-4.1* rapmycn-3.5*
___ 06:20AM BLOOD tacroFK-3.1* rapmycn-3.7*
___ 04:50AM BLOOD tacroFK-4.7* rapmycn-6.8

___ URINALYSIS: clear yellow, spec ___ 1.020, pH 7.5, 
trace blood, >80 ketones, 0.2 urobilinogen, negative ___ / 
nitrite / protein / glucose / bilirubin; ___ RBCs, 0 WBCs, no 
bacteria, no yeast, <1 epithelial

MICRO:
___ Urine Cx negative
___ Blood Cx negative x4

CXR ___:
PA and lateral chest compared to ___: 
  
Aside from right aortic arch normal heart, lungs, hila, 
mediastinum and 
pleural surfaces. 
  
The study and the report were reviewed by the staff radiologist. 


CT Abdomen/Pelvis ___:
TECHNIQUE: Axial CT images were acquired through the abdomen and 
pelvis 
following administration of 130 cc of intravenous Optiray 
contrast. Coronal 
and sagittal reformatted images were also reviewed. 
  
CT ABDOMEN WITH CONTRAST: The included portions of the lung 
bases and the 
cardiac apex are unremarkable. The stomach and small bowel are 
unremarkable. 
The spleen, adrenal glands, kidneys, gallbladder are 
unremarkable. The liver 
contains a focal hypodensity consistent with focal fatty 
infiltration, 
unchanged from the comparison study (2:24). There is no free gas 
or fluid in 
the abdomen. Regional vascular structures are unremarkable. 
There is no 
retroperitoneal or mesenteric lymphadenopathy. 
  
CT PELVIS WITH CONTRAST: The patient is status post pancreas 
transplant with 
the new pancreas visualized in the right lower quadrant, 
enhancing 
homogeneously. A trace amount of hypodensity near the pancreatic 
head (2:61) 
is consistent with a small amount of adjacent fluid, unchanged 
from previous 
studies. The rectum and colon are unchanged in appearance from 
the comparison 
study and appear unremarkable. The appendix is also well 
visualized and is 
normal (300B:20). There is no free gas in the pelvis. There is 
no pelvic 
sidewall or inguinal lymphadenopathy. The urinary bladder, 
distal ureters, 
prostate, and seminal vesicles are also unremarkable. 
  
OSSEOUS FINDINGS: There is no suspicious sclerotic or lytic 
osseous lesion. 
  
IMPRESSION: Overall minimal change with redemonstration of 
normally enhancing 
pancreatic transplant with a stable, small amount of adjacent 
fluid. 

 
Brief Hospital Course:
#. Abdominal Pain/Nausea/Vomiting.  During his last admission, 
an agreement was reached that we would no longer treat his 
gastroparesis with narcotic analgesics.  Due to a computer 
outage, he received IV dilaudid in the emergency department 
before admission.  On the floor, he was given no narcotic pain 
relievers.  His home fentanyl patch was stopped.  His nausea was 
treated with prn compazine and zofran.  His gastroparesis was 
treated with standing reglan.  He was made NPO and given IV 
fluids and his electrolytes were repleted as needed.  Withdrawal 
symptoms were treated with clonidine and valium.  His diet was 
advanced to clears which he tolerated, and his abdominal pain 
improved slowly.  Substance Abuse psychiatry was consulted an 
investigated inpatient detoxification options.  As patient was 
no longer taking narcotics, he did not qualify for inpatient 
detoxification.  Patient was provided with a list of outpatient 
providers that can treat narcotic withdrawal with suboxone.  He 
tolerated advancement of his diet to regular.
.
#. Fever.  On ___, patient had a fever to 101.0 F.  Chest 
x-ray and urinalysis were unremarkable.  A CT scan of the 
abdomen and pelvis demonstrated no interval change from a study 
on ___.  Blood and urine cultures had no growth to date at 
time of discharge.  
.
#. s/p pancreas transplant. Serum levels of rapamune and 
tacrolimus were low on admission.  He was given his homes doses 
of rapamune and tacrolimus, even while NPO.  As his nausea and 
vomiting improved, his serum level of immunsupressants  now 
therapeutic 5.9 and 6.8 respectively. As he has been better able 
to tolerate PO, he has been able to take his meds. Amylase and 
lipase continue to be negative.  His tacrolimus and sirolimus 
doses were adjusted and on discharge were:
1. tacrolimus 3mg PO Q12hrs
2. sirolimus 5mg PO daily
.

 
Medications on Admission:
Tacrolimus 3 mg PO Q12H  
Sirolimus 4 mg PO daily  
Topiramate 25 mg PO daily  
Omeprazole 40 mg PO BID  
Diazepam 10 mg PO Q6H:PRN  
Fentanyl 50 mcg/hr patch Q72H  
Bactrim SS daily  
Gabapentin 600 mg PO TID  
Duloxetine 90 mg EC daily  
Dronabinol 10 mg PO TID  
Senna PRN  
Colace PRN  
Metoclorpramide 20 mg PO QIDACHS  
Bisacodyl PRN  
Prochlorperazine 10 mg PO Q6H:PRN  

 
Discharge Medications:
.
1. Tacrolimus 1 mg Capsule Sig: Three (3) Capsule PO every 
twelve (12) hours.  
2. Sirolimus 1 mg Tablet Sig: Five (5) Tablet PO once a day.  
3. Topiramate 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for headache.  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
5. Diazepam 10 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.  
6. Bactrim 80-400 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Gabapentin 300 mg Capsule Sig: Two (2) Capsule PO Q8H (every 
8 hours).  
8. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
9. Dronabinol 10 mg Capsule Sig: One (1) Capsule PO TID (3 times 
a day).  
10. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
11. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.  
12. Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS 
(four times daily: with meals and at bedtime).  
13. Bisacodyl 5 mg Tablet Sig: ___ Tablets PO once a day as 
needed for constipation.  
14. Compazine 10 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for nausea.  
15. Acetaminophen 500 mg Tablet Sig: ___ Tablets PO every six 
(6) hours as needed for fever or pain.  
16. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours.
Disp:*120 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
1. Narcotics dependence, withdrawal
2. Gastroparesis
.
Secondary Diagnoses:
1. Type 1 diabetes mellitus, s/p pancreas transplant

 
Discharge Condition:
Afebrile, vital signs stable.

 
Discharge Instructions:
You were admitted to ___ with abdominal pain, and nausea / 
vomiting. You were treated as gastroparesis and narcotic 
withdrawal, and you received anti-emetics, IV fluids, valium, 
and clonidine to make you comfortable while you were withdrawing 
from the narcotics. Your immunosuppression was adjusted as well. 
You should take all your medications as listed below.
.
The following changes were made to your medications:
1. STOP the Fentanyl patch
2. STOP the Dilaudid
3. START Clonidine 0.1mg every 6 hours
.
You have been set up with an outpatient program for relapse
prevention and psycho-education with Ad-Care ___, which 
has a ___ clinic for future care. You should follow-up with 
your appointment with them tomorrow. You should also follow-up 
with Dr. ___ your endoscopic ultrasound & Botox, and 
then with Dr. ___, at the appointments listed below.
.
If you develop any abdominal pain, nausea, vomiting, or other 
concerning symptoms, you should call your doctor or return to 
the Emergency Room for evaluation.
 
Followup Instructions:
___